US07060827B2
In like manner to the preparation of 2-chloro-N-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine was reacted with 1-aminopyrrole to produce 2-chloro-5-fluoro-N-(1H-pyrrol-1-yl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 11.39 (s, 1H), 8.35 (d, 1H, J=3.5 Hz), 6.83 (t, 2H, J=2.3 Hz), 6.07 (t, 2H, J=2.3 Hz). LCMS: ret. time: 18.95 min.; purity: 97%; MS (m/e): 213 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 1-aminopyrrole | NN1C=CC=C1 | C4H6N2
product | 2-chloro-5-fluoro-N-(1H-pyrrol-1-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NN1C=CC=C1)F | C8H6ClFN4
